US07485732B2
Step 1 Ethyl (2R)-(3-bromo-5-fluorophenyl)[1-(diphenylmethyl)-3-hydroxyazetidin-3-yl]acetate
The title compound was prepared from ethyl 3-bromo-5-fluorophenylacetate and 1-[bis-phenylmethyl]azetidin-3-one (Preparation 2) by the procedure described in Step 2 of Preparation 3 except that lithium hexamethyldisilamide was used instead of butyllithium to form the ketene acetal; Mass Spectrum: m/e=498 (M+1, 79Br), 500 (M+1, 81Br)

reactant | ethyl 3-bromo-5-fluorophenylacetate | BrC=1C=C(C=C(C1)F)CC(=O)OCC | C10H10BrFO2
reactant | 1-[bis-phenylmethyl]azetidin-3-one | C1(=CC=CC=C1)C(N1CC(C1)=O)C1=CC=CC=C1 | C16H15NO
reactant | lithium hexamethyldisilamide | CC=1C(=C([SiH]([SiH-](C1)(C)C)C)C)C.[Li+]
product | Ethyl (2R)-(3-bromo-5-fluorophenyl)[1-(diphenylmethyl)-3-hydroxyazetidin-3-yl]acetate | BrC=1C=C(C=C(C1)F)[C@@H](C(=O)OCC)C1(CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C26H25BrFNO3
